US07829560B2
3-Fluoro-5-piperidin-1-yl-N-[4-({2-[(2-piperidin-1-ylethyl)amino]pyrimidin-4-yl}oxy)-1-naphthyl]benzamide (Compound B390).
Compound is prepared from 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide and 2-piperidin-1-yl-ethylamine according to conditions described in general procedure C. Mp: 88-89° C.; 1H NMR (400 MHz, DMSO-d6) δ 1.31-1.39 (m, 6 H), 1.58-1.61 (m, 6 H), 1.99-2.27 (m, 6 H), 2.90-3.24 (m, 2 H), 3.23-3.29 (m, 4 H), 6.20-6.31 (bd, 1 H), 6.90-6.98 (m, 2 H), 7.15 (d, J=8.8 Hz, 1 H), 7.37 (d, J=8.0 Hz, 1 H), 7.43 (s, 1 H), 7.50-7.62 (m, 3 H), 7.78-7.80 (m, 1 H), 7.96 (d, J=8.0 Hz, 1 H), 8.20 (s 1 H), 10.40 (s, 1 H).

reactant | 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCCCC1 | C27H25FN4O4S
reactant | 2-piperidin-1-yl-ethylamine | N1(CCCCC1)CCN | C7H16N2
product | 3-Fluoro-5-piperidin-1-yl-N-[4-({2-[(2-piperidin-1-ylethyl)amino]pyrimidin-4-yl}oxy)-1-naphthyl]benzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)NCCN2CCCCC2)C=C(C1)N1CCCCC1 | C33H37FN6O2
